US08076486B2
5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-3H-[1,3,4]oxadiazol-2-one
To a solution of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide (152 mg, 0.41 mmol) in THF (6 mL) contained TEA (60 μl, 0.43 mmol) were added Di-imidazol-1-yl-methanone (95 mg, 0.57 mmol) at 0° C. The reaction mixture was warmed to RT and stirred for 5 h, additional TEA (40 μl) and CDI (50 mg) were added, and the reaction mixture was stirred overnight at RT. The precipitate was filtered, the solid washed with MeOH. Yield: yellow solid 123 mg. LC-MS (Method A) [5.50 min; 399(M+1)].

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 0.41 mmol, 152 mg | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | Di-imidazol-1-yl-methanone | 0.57 mmol, 95 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | CDI | 50 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-3H-[1,3,4]oxadiazol-2-one | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NNC(O1)=O | C13H8FIN4O2
